US07638515B2
2-Fluoro-3-methoxybenzyl cyanide
24.89 g (142.56 mmol) of 2-fluoro-3-methoxybenzyl chloride is stirred in 200 ml of DMSO with 8.38 g (171.07 mmol) of sodium cyanide for three hours at 90° C. The reaction mixture is poured into water and extracted four times with methyl tert-butyl ether. The combined organic phases are washed with brine, dried, the desiccant is suctioned off, and the solvent is spun off. First, only a portion of the residue (21.43 g) is incorporated in crude form into the next stage.

reactant | 2-fluoro-3-methoxybenzyl chloride | 142.56 mmol, 24.89 g | FC1=C(CCl)C=CC=C1OC | C8H8ClFO
reactant | sodium cyanide | 171.07 mmol, 8.38 g | [C-]#N.[Na+]
reactant | water | O | H2O
solvent | DMSO | 200 ml | CS(=O)C | C2H6OS
product | 2-Fluoro-3-methoxybenzyl cyanide | FC1=C(CC#N)C=CC=C1OC | C9H8FNO
